Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
wound dehiscence
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ M s/p splenectomy readmitted for wound dehiscence
 
Past Medical History:
DM 
HTN
 
Social History:
___
Family History:
sister with ITP 
 
Physical Exam:
Gen: NAD
Abd: S/NT/ND, wound dehiscence at laterally edge of wound with 
dehiscence of anterior but not posterior sheath, no erythema, no 
signs of infection
Ext: WNL

 
Pertinent Results:
___ 04:00PM   WBC-19.8* RBC-3.60* HGB-10.1* HCT-32.4* 
MCV-90 MCH-28.1 MCHC-31.2 RDW-15.8*
___ 04:00PM   PLT COUNT-359
 
Brief Hospital Course:
The patient was admitted, and a vac dressing was placed on the 
wound. VAC therapy was continued with good results, but the 
patient was kept in house until the first scheduled change of 
the VAC dressing. This was performed without difficulty and the 
patient is now discharged home with ___ for VAC changes. 
 
Medications on Admission:
lasix 80am/40pm, metformin 500''', humalog ssi, NPH 56/50, 
dexamethasone 8'', claritin prn  

 
Discharge Medications:
1. Metformin 500 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
2. Furosemide 40 mg Tablet Sig: Two (2) Tablet PO QAM (once a 
day (in the morning)).  
3. Furosemide 40 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).  
4. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
6. Dexamethasone 4 mg Tablet Sig: Two (2) Tablet PO Q12H (every 
12 hours).  
7. Medication
Please resume all other home medications as before.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
wound dehiscence

 
Discharge Condition:
Good

 
Discharge Instructions:
You were admitted for placement of a VAC dressing on your wound. 
Please call Dr. ___ or return to the E.R. for any of 
the following:
*new nausea/vomiting
*inability to eat
*fever > 101.4
*chest pain
*shortness of breath
*inability to have bowel movements or pass gas
*new redness around wound
*any other questions or concerns
 
Followup Instructions:
___